US04283414
A mixture of pentafluorobenzyl alcohol (3.0 g) and dry methylene dichloride (50 ml) was cooled to a temperature of 0° C. in an ice-bath and 2-chloro-1-diethylamino-1,1,2-trifluoroethane (4.3 g) was slowly added to the cooled, stirred mixture over a period of ten minutes. After standing for a period of 18 hr. at 0° C. the reaction mixture was poured into ice and the organic layer was separated and washed with IM aqueous sodium carbonate solution. The organic layer was dried over anhydrous sodium sulfate, the solvent was removed by distillation and the product was distilled under reduced pressure to give pentafluorobenzyl fluoride, b.p. 51° C. at 30 mm Hg.

reactant | pentafluorobenzyl alcohol | 3.0 g | FC1=C(C(=C(C(=C1CO)F)F)F)F | C7H3F5O
reactant | 2-chloro-1-diethylamino-1,1,2-trifluoroethane | 4.3 g | ClC(C(F)(F)N(CC)CC)F | C6H11ClF3N
solvent | methylene dichloride | 50 ml | C(Cl)Cl | CH2Cl2
product | pentafluorobenzyl fluoride | FC1=C(C(=C(C(=C1CF)F)F)F)F | C7H2F6
